US07973051B2
ii) (4-Methoxymethyl-thiazol-2-yl)-carbamic acid tert-butyl ester
4-methoxymethyl-thiazol-2-ylamine (16.7 g, 116 mmol, ca. 1.0 equiv. crude) was dissolved in THF and filtered over a pad of dicalite. The filtrate was cooled with an ice-bath, and di-tert.-butyl-dicarbonate (30.3 g, 139 mmol, 1.2 equiv.) was added portionwise followed by 4-dimethylaminopyridine. (1.4 g, 11.1 mol). The mixture was then stirred at rt overnight and then concentrated under reduced pressure. After an extractive workup in ethyl acetate with potassium hydrogen sulfate solution 5% and sodium carbonate solution half saturated, the organic fraction was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was then purified on silica gel with tert. butyl methyl ether and n-heptane as eluents to give the title compound as a light orange solid. (1.0 g, 3.7%) MS (ISN): m/e 243.1 (M−H)−

reactant | 4-methoxymethyl-thiazol-2-ylamine | 116 mmol, 16.7 g, ca. 1.0 equiv. | COCC=1N=C(SC1)N | C5H8N2OS
reactant | di-tert.-butyl-dicarbonate | 139 mmol, 30.3 g, 1.2 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-Methoxymethyl-thiazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC=C(N1)COC)=O | C10H16N2O3S
